US07494999B2
The compound 4-[4-(4-chloro-phenyl)-piperazine-1-sulfonyl]-indan-2-carboxylic acid was prepared from 1-(4-chloro-phenyl)-piperazine and 4-chlorosulfonyl-indan-2-carboxylic acid methyl ester following the procedure outlined in Example 79. 1H NMR (400 MHz, DMSO-d6): δ 7.58 (d, 1H), 7.56 (d, 1H), 7.43 (t, 1H), 7.23 (d, 2H), 6.92 (d, 2H), 3.50-3.41 (m, 2H), 3.40-3.29 (m, 1H), 3.28-3.13 (m, 6H), 3.12-3.04 (m, 4H); MS (ESI): 420.9 (M+H).

reactant | 1-(4-chloro-phenyl)-piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | 4-chlorosulfonyl-indan-2-carboxylic acid methyl ester | COC(=O)C1CC2=CC=CC(=C2C1)S(=O)(=O)Cl | C11H11ClO4S
product | 4-[4-(4-chloro-phenyl)-piperazine-1-sulfonyl]-indan-2-carboxylic acid | ClC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1=C2CC(CC2=CC=C1)C(=O)O | C20H21ClN2O4S
